Current Feedback Amplifier

** Including necessary files **
.include OPAMP.MOD

** Defining parameters for output **
.CSPARAM RF=10k
.CSPARAM RL=10k

** Circuit Description **
I1 0 N001 1m
RF N001 N002 10k
RM N002 0 100
RL N002 N004 10k
XU2 0 N001 N004 OPAMP1

** Analysis Request **
.tran 0.1 10

** Output Request **
.control

run
* If = (V(N001)-V(N002))/RF
* Is = 1m
* Io = (V(N002)-V(N004))/RL

wrdata ep18btech11016_feed_gain.dat (V(N001)-V(N002))/(V(N002)-V(N004))
wrdata ep18btech11016_cl_gain.dat (V(N002)-V(N004))/(RL*1m)
.endc
.end
